US04141982
In a manner analogous to that described in Example 12, 5.2 g of 1-ethyl-5-butyryl-6-methyl-benzimidazole-2-methanol can be oxidised with 4.5 g of potassium permanganate to give 1-ethyl-5-butyryl-6-methyl-benzimidazole-2-carboxylic acid with a melting point >80° (decomposition).

reactant | 1-ethyl-5-butyryl-6-methyl-benzimidazole-2-methanol | 5.2 g | C(C)N1C(=NC2=C1C=C(C(=C2)C(CCC)=O)C)CO | C15H20N2O2
reactant | potassium permanganate | 4.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
product | 1-ethyl-5-butyryl-6-methyl-benzimidazole-2-carboxylic acid | C(C)N1C(=NC2=C1C=C(C(=C2)C(CCC)=O)C)C(=O)O | C15H18N2O3
